US06734191B2
To a solution of 2-aminonicotinic acid ethyl ester (1.74 g, 10.5 mmol) in anhydrous THF (35 mL) was added a solution of lithium aluminum hydride (0.60 g, 15.7 mmol) in THF (17 mL) at 0° C. over 15 min and the mixture stirred for 1.5 h. To the reaction was added sequentially 0.6 mL H2O, 0.6 mL 15% aqueous NaOH and 1.8 mL H2O and the resultant slurry was filtered. The filtrate was dried (MgSO4), filtered, concentrated and purified by column chromatography (10% MeOH/CH2Cl2) to give 2-amino-3-hydroxymethylpyridine (1.03 g, 79%) as a yellow crystalline solid. 1H NMR (CDCl3) δ3.14 (br s, 1H (OH)), 4.60 (s, 2H), 5.00 (br s, 1H (NH)), 6.59 (t, 1H, J=6.0 Hz), 7.28 (d, 1H, J=7.5 Hz), 7.94 (d, 1H, J=7.5 Hz).

reactant | 2-aminonicotinic acid ethyl ester | 10.5 mmol, 1.74 g | C(C)OC(C1=C(N=CC=C1)N)=O | C8H10N2O2
reactant | lithium aluminum hydride | 15.7 mmol, 0.60 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | H2O | 0.6 mL | O | H2O
reactant | NaOH | 0.6 mL | [OH-].[Na+]
reactant | H2O | 1.8 mL | O | H2O
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 17 mL | C1CCOC1 | C4H8O
product | 2-amino-3-hydroxymethylpyridine | 1.03 g, 79% | NC1=NC=CC=C1CO | C6H8N2O
